US05061720
5-Butyl-2-imino-4-thiazolidinone hydrate[4:1].
A mixture of 100 g (0.44 mole) of 2-bromohexanoic acid ethyl ester (Aldrich) and 39.0 g (0.51 mole) of thiourea (Baker) in 600 mL of ethanol was stirred and heated on a steam bath for 2 hr. The solvent was evaporated under reduced pressure to leave a solid residue. A 1.0 g sample of this solid was recrystallized from ethanol-water to yield 0.8 g title compound as a white solid, mp 179°-182° C. (lit, mp 183° C., J. Amer. Chem. Soc. 49, 2064 (1927)).

reactant | 2-bromohexanoic acid ethyl ester | 0.44 mole, 100 g | C(C)OC(C(CCCC)Br)=O | C8H15BrO2
reactant | thiourea | 0.51 mole, 39.0 g | NC(=S)N | CH4N2S
solvent | ethanol | 600 mL | C(C)O | C2H6O
product | 5-Butyl-2-imino-4-thiazolidinone hydrate | 0.8 g | O.C(CCC)C1C(NC(S1)=N)=O | InChI=1S/C7H12N2OS.H2O/c1-2-3-4-5-6(10)9-7(8)11-5;/h5H,2-4H2,1H3,(H2,8,9,10);1H2
